US07994163B2
2-Amino-cyclohexanone Hydrochloride:
Add 2-nitrocyclohexanone (7.0 g, 48.9 mmol), 5% platinum sulfided on carbon (500 mg), ethanol (120 mL) and concentrated hydrochloric acid (6 mL) to a pressure vessel under a nitrogen atmosphere. Pressurize the vessel to 50 psi with hydrogen and stir the mixture for 3 h. Filter the mixture through Celite® and wash with ethanol followed by DCM under a nitrogen atmosphere. Concentrate the filtrate in vacuo. Slurry the residue in acetone (50 mL) and filter. Collect the solid to obtain the desired intermediate (2.2 g, 40%).

reactant | 2-nitrocyclohexanone | 48.9 mmol, 7.0 g | [N+](=O)([O-])C1C(CCCC1)=O | C6H9NO3
reactant | hydrochloric acid | 6 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | platinum | [Pt] | Pt
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 2-Amino-cyclohexanone Hydrochloride | 2.2 g, 40% | Cl.NC1C(CCCC1)=O | InChI=1S/C6H11NO.ClH/c7-5-3-1-2-4-6(5)8;/h5H,1-4,7H2;1H
